US06340751B1
Preparation of 3-{(2R)-2-[(3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazin-2,1′-cyclohexan]-4-one
Under a nitrogen atmosphere, 273 mg (1.0 mmol) of 3-propionyl-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1′-cyclohexan]-4-one was charged in a 30-ml three-necked flask to dissolve it in 2 ml of tetrahydrofuran. To the resulting solution, 2.44 ml (2.2 mmol) of a tetrahydrofuran solution (0.9M) of n-butylmagnesium chloride was slowly added dropwise at room temperature. The resulting mixture was reacted for 25 minutes under the same conditions. After cooling to 5° C., 2 ml of a tetrahydrofuran solution of 287 mg (1.0 mmol) of (3R,4R)-4-acetoxy-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one was added at the same temperature. The resulting mixture was stirred for 15 minutes, added with 10 ml of ethyl acetate and then added dropwise with 2 ml of a 10% aqueous solution of citric acid. After separation, the organic layer was washed with 2 ml of a saturated aqueous solution of sodium bicarbonate and 2 ml of a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by column chromatography, whereby 263 mg (0.53 mmol) of a condensation product was obtained (yield: 53%, β:α=92:8).

reactant | 3-propionyl-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1′-cyclohexan]-4-one | 1.0 mmol, 273 mg | C(CC)(=O)N1C(C2=C(OC13CCCCC3)C=CC=C2)=O | C16H19NO3
reactant | n-butylmagnesium chloride | C(CCC)[Mg]Cl
reactant | (3R,4R)-4-acetoxy-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one | 1.0 mmol, 287 mg | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.2 mmol, 0.9M, 2.44 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-{(2R)-2-[(3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazin-2,1′-cyclohexan]-4-one | 0.53 mmol, 263 mg, yield: 53% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)N1C(C2=C(OC13CCCCC3)C=CC=C2)=O)C)=O | C27H40N2O5Si
